US07501518B2
Compound 53:1′-(3-Imidazol-1-yl-propyl)-3,3″-dimethyl-1′,2′,3′,4′,5′,6′-hexahydro-[2,2′;6′,2″]terpyridine (HBr Salt)
Using General Procedure A: 3,3″-dimethyl-1′,2′,3′,4′,5′,6′-hexahydro-[2,2′;6′,2″]terpyridine (91.3 mg, 0.341 mmol), 1-(3-bromo-propyl)-1H-imidazole (129 mg, 0.680 mmol), KI (5.6 mg, 0.034 mmol), DIPEA (0.18 mL, 1.02 mmol), and DMF (3.4 mL) were stirred at 60° C. overnight. Purification of the crude material by flash chromatography on silica gel (CH2Cl2/MeOH/NH4OH, 90:5:5) followed by radial chromatography on a 1 mm TLC grade silica gel plate (CH2Cl2/MeOH/NH4OH, 96:2:2) afforded the free base of the title compound (48 mg, 38%) as a colorless oil.

reactant | 3,3″-dimethyl-1′,2′,3′,4′,5′,6′-hexahydro-[2,2′;6′,2″]terpyridine | 0.341 mmol, 91.3 mg | CC=1C(=NC=CC1)C1NC(CCC1)C1=NC=CC=C1C | C17H21N3
reactant | 1-(3-bromo-propyl)-1H-imidazole | 0.680 mmol, 129 mg | BrCCCN1C=NC=C1 | C6H9BrN2
reactant | DIPEA | 1.02 mmol, 0.18 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 3.4 mL | CN(C)C=O | C3H7NO
product | 1′-(3-Imidazol-1-yl-propyl)-3,3″-dimethyl-1′,2′,3′,4′,5′,6′-hexahydro-[2,2′;6′,2″]terpyridine | 48 mg, 38% | N1(C=NC=C1)CCCN1C(CCCC1C1=NC=CC=C1C)C1=NC=CC=C1C | C23H29N5
